US04439229
Step C: N-[3-(2-Cyanoethyl)-4-chlorophenyl]-3,4,5,6-tetrahydrophthalimide
To a stirred slurry of 5.0 g of 3,4,5,6-tetrahydrophthalic anhydride in 5 ml. of glacial acetic acid under N2 is added 7.5 g of 3-(2-cyanoethyl)-4-chloroaniline and the mixture heated to reflux for 2 hours. The reaction mixture is cooled to room temperature, water is added together with several mls. of conc. HCl and the mixture extracted with ether. The combined ether extracts are washed with saturated brine and then dried over MgSO4. Filtration and removal of the solvent yielded 8.9 g of a brown oil. The oil is dissolved in CH2Cl2, passed through a plug of alumina, the solvent removed, and then further purified by MPLC eluting with 25% EtOAc/hexanes to yield the product as a yellow solid, m.p. 87°-97° C.

reactant | 3,4,5,6-tetrahydrophthalic anhydride | 5.0 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 3-(2-cyanoethyl)-4-chloroaniline | 7.5 g | C(#N)CCC=1C=C(N)C=CC1Cl | C9H9ClN2
solvent | water | O | H2O
product | N-[3-(2-Cyanoethyl)-4-chlorophenyl]-3,4,5,6-tetrahydrophthalimide | 8.9 g | C(#N)CCC=1C=C(C=CC1Cl)N1C(C2=C(C1=O)CCCC2)=O | C17H15ClN2O2
